US04584304
CYANO(6-PHENOXY-2-PYRIDINYL)METHYL 2,2-DIMETHYL-3-((ISOBUTOXYIMINO)METHYL)CYCLOPROPANECARBOXYLATE
To a solution of 0.95 g of 2,2-dimethyl-3-((isobutoxyimino)methyl)cyclopropanecarboxylic acid and 1.70 g of cyano(6-phenoxy-2-pyridinyl)methyl tosylate in 30 ml of toluene was added 200 mg of tetrabutylammonium hydrogen sulfate. To this mixture was added in one portion 0.75 g of potassium carbonate dissolved in 10 ml of water. The reaction mixture turned from yellow to bright purple in 30 seconds. The reaction mixture was stirred vigorously and heated to 75° C. The purple color disappeared after 10 minutes. The reaction mixture was heated for four hours at 70° C. and then cooled to room temperature. The resulting mixture was washed with 100 ml of 5% potassium carbonate solution and extracted thrice with 50 ml portions of diethyl ether. The combined extract was stripped to give 440 mg of a crude oil. This crude product was chromatographed using 30% diethyl ether in hexane as eluent. The product was washed off the silica with ethyl acetate and the eluate was stripped to give 180 mg of the desired product as a yellow oil.

reactant | 2,2-dimethyl-3-((isobutoxyimino)methyl)cyclopropanecarboxylic acid | 0.95 g | CC1(C(C1C=NOCC(C)C)C(=O)O)C | C11H19NO3
reactant | cyano(6-phenoxy-2-pyridinyl)methyl tosylate | 1.70 g | S(=O)(=O)(OC(C1=NC(=CC=C1)OC1=CC=CC=C1)C#N)C1=CC=C(C)C=C1 | C20H16N2O4S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 200 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
product | CYANO(6-PHENOXY-2-PYRIDINYL)METHYL 2,2-DIMETHYL-3-((ISOBUTOXYIMINO)METHYL)CYCLOPROPANECARBOXYLATE | 180 mg | CC1(C(C1C=NOCC(C)C)C(=O)OC(C1=NC(=CC=C1)OC1=CC=CC=C1)C#N)C | C24H27N3O4
